US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(2-hydroxythiazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid
2-Hydroxy-5-thiazolecarboxylic acid (43.5 mg, 0.3 mmol) and HCTU (124 mg, 0.3 mmol) were stirred in DMF (1.3 mL, 16.4 mmol) for 15 minutes at room temperature. (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (100 mg, 0.3 mmol) and DIPEA (142 μL, 818 μmol) were added, and resulting mixture was stirred at room temperature for 30 minutes. The mixture was then evaporated under reduced pressure. The residue was dissolved in EtOH (955 μL, 16.4 mmol). A solution of 1.0 M LiOH in water (1.4 mL, 1.4 mmol) was added and the resulting mixture was stirred at 40° C. for 3 hours. LC/MS showed completion. The solvent was removed in vacuo and the residue was purified by preparative HPLC to yield the title compound (22 mg) as a TFA salt. MS m/z [M+H]+ calc'd for C20H17ClFN3O5S, 466.06. found 466.0.

reactant | 2-Hydroxy-5-thiazolecarboxylic acid | 0.3 mmol, 43.5 mg | OC=1SC(=CN1)C(=O)O | C4H3NO3S
reactant | HCTU | 0.3 mmol, 124 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 16.4 mmol, 1.3 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 0.3 mmol, 100 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 818 μmol, 142 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOH | 16.4 mmol, 955 μL | CCO | C2H6O
reactant | LiOH | 1.0 M | [Li+].[OH-]
reactant | water | 1.4 mmol, 1.4 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(2-hydroxythiazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid | 22 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CN=C(S1)O)C[C@H](C(=O)O)O)F | C20H17ClFN3O5S
